US04191840
[(2-Aminocarbonyl-3-methylsulfinylphenyl)oxamic acid ethyl ester 44/23 at 25 mg/kg per os
A mixture of 2.0 g. of [2-carbamyl-3-(methylthio)phenyl] oxamic acid ethyl ester and 1.44 g. of m-chloroperoxybenzoic acid in 200 ml. of methylene chloride is stirred for 2 hours. 0.6 g. of sodium bicarbonate in 20 ml. of water is added, the methylene chloride layer is separated, dried and evaporated. The residue is recrystallized from ethanol-diethyl ether, m.p. 164°-166° C.

reactant | [2-carbamyl-3-(methylthio)phenyl] oxamic acid ethyl ester | C(C)OC(C(=O)NC1=C(C(=CC=C1)SC)C(N)=O)=O | C12H14N2O4S
reactant | m-chloroperoxybenzoic acid | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
reactant | methylene chloride | C(Cl)Cl | CH2Cl2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | water | O | H2O
product | (2-Aminocarbonyl-3-methylsulfinylphenyl)oxamic acid ethyl ester | C(C)OC(C(=O)NC1=C(C(=CC=C1)S(=O)C)C(=O)N)=O | C12H14N2O5S
